US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (1.28 g, 7.08 mmol) in acetonitrile (17.7 mL) was treated with N,N-diisopropylethylamine (1.15 mL, 6.95 mmol). After addition was complete, the mixture was stirred at 60° C. for 1 h. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (1.15 mL, 6.95 mmol) and acetonitrile (17.7 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(2,5-difluoro-phenoxy)-but-2-enoic acid ethyl ester (1.56 g, 6.44 mmol) in acetonitrile (16.1 mL). After the addition was complete, the reaction mixture was heated to 100° C. where it stirred overnight. At this time, the reaction mixture was cooled to 25° C. and was concentrated in vacuo. The residue was diluted with dichloromethane (75 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 15-50% ethyl acetate/hexanes) afforded (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.38 g, 17%) as a yellow oil: HR-ES-MS m/z calculated for C17H19NO4F2 [M+H]+ 340.1355, observed 340.1355; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.6 Hz, 3H), 0.92 (d, J=6.6 Hz, 3H), 1.35-1.53 (m, 1H), 1.53-1.69 (m, 1H), 1.72-1.89 (m, 1H), 3.66 (s, 3H), 4.13-4.33 (m, 2H), 4.73 (dd, J=11.5, 4.5 Hz, 1H), 5.07 (s, 1H), 7.13-7.35 (m, 1H), 7.42-7.64 (m, 2H).

reactant | (L)-leucine methyl ester hydrochloride | 7.08 mmol, 1.28 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 6.95 mmol, 1.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 6.95 mmol, 1.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(2,5-difluoro-phenoxy)-but-2-enoic acid ethyl ester | 6.44 mmol, 1.56 g | C(C)OC(C=C(CBr)OC1=C(C=CC(=C1)F)F)=O | C12H11BrF2O3
solvent | acetonitrile | 17.7 mL | C(C)#N | C2H3N
solvent | acetonitrile | 16.1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 17.7 mL | C(C)#N | C2H3N
product | (S)-2-[4-(2,5-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 0.38 g, 17% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)F)F)=O)=O | C17H19F2NO4
